US06239151B1
A solution of 0.47 g of (E)-2′-(N-tert.-butoxycarbonyl-β-alanyl)-2(R)-[1(S)-[(tetrahydro-2(RS)-pyranyloxy)-carbamoyl]-4-phenyl-3-butenyl]-2′-isobutyl-4-methylvalerohydrazide in 5 ml of 4M hydrogen chloride in dioxan was stirred for 2 hours at room temperature and diluted with diethyl ether. The solid was filtered off, washed with diethyl ether and dried to give 0.29 g of (E)-2′-(β-alanyl)-2(R)-[1(S)-(hydroxycarbamoyl)-4-phenyl-3-butenyl]-2′-isobutyl-4-methylvalerohydrazide hydrochloride in the form of a white solid.

reactant | (E)-2′-(N-tert.-butoxycarbonyl-β-alanyl)-2(R)-[1(S)-[(tetrahydro-2(RS)-pyranyloxy)-carbamoyl]-4-phenyl-3-butenyl]-2′-isobutyl-4-methylvalerohydrazide | 0.47 g | C(C)(C)(C)OC(=O)NCCC(=O)N(NC([C@H](CC(C)C)[C@H](C\C=C\C1=CC=CC=C1)C(NOC1OCCCC1)=O)=O)CC(C)C | C34H54N4O7
reactant | hydrogen chloride | 4M, 5 ml | Cl | ClH
solvent | dioxan | O1CCOCC1 | C4H8O2
solvent | diethyl ether | C(C)OCC | C4H10O
product | (E)-2′-(β-alanyl)-2(R)-[1(S)-(hydroxycarbamoyl)-4-phenyl-3-butenyl]-2′-isobutyl-4-methylvalerohydrazide hydrochloride | 0.29 g | Cl.NCCC(=O)N(NC([C@H](CC(C)C)[C@H](C\C=C\C1=CC=CC=C1)C(NO)=O)=O)CC(C)C | InChI=1S/C24H38N4O4.ClH/c1-17(2)15-21(23(30)26-28(16-18(3)4)22(29)13-14-25)20(24(31)27-32)12-8-11-19-9-6-5-7-10-19;/h5-11,17-18,20-21,32H,12-16,25H2,1-4H3,(H,26,30)(H,27,31);1H/b11-8+;/t20-,21+;/m0./s1
